US07601742B2
4.1 Preparation of 1-{3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]-phenyl}-3-phenylurea according to General Procedure VIII
A solution of 1-(3-aminophenyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)-pyrrolidin-2-one (8 mg, 0.022 mmol) in CH2Cl2 (0.5 mL) was created. Phenylisocyanate (0.023 mmol) was added, and the reaction mixture was stirred for 20 h. Concentration under reduced pressure and purification by column chromatography on silica gel (EtOAc:Hexane=1:2) gave the desired product.

reactant | 1-(3-aminophenyl)-4-(3-cyclopentyloxy-4-methoxyphenyl)-pyrrolidin-2-one | 0.022 mmol, 8 mg | NC=1C=C(C=CC1)N1C(CC(C1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C22H26N2O3
reactant | Phenylisocyanate | 0.023 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]-phenyl}-3-phenylurea | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(N(C1)C=1C=C(C=CC1)NC(=O)NC1=CC=CC=C1)=O | C29H31N3O4
